US07053107B2
2-{3-[2-(4-Methyl-pyridin-2-yl)-vinyl]-1H-indazol6-ylamino}-N-pyridin-2-ylmethyl-benzamide
Prepared in a similar manner to that described for Example 6 and Example 7 above except using 2-[3-[2-(4-methyl-pyridin-2-yl)-vinyl]-1-(tetrahydro-pyran-2-yl)-1H-indazol -6-ylamino]-benzoic acid and C-Pyridin-2-yl-methylamine. 1H NMR (DMSO-d6, 300 MHz) δ 12.91 (1H, s), 9.77 (1H, s), 9.19 (1H, t, J=5.8 Hz), 8.50 (1H, d, J=4.1 Hz), 8.45 (1H, d, J=5.0 Hz), 8.06 (1H, d, J=8.8 Hz), 7.88 (1H, d, J=16.4 Hz), 7.82–7.70 (2H, m), 7.51–7.25 (7H, m), 7.10 (1H, d, J=4.6 Hz), 6.98 (1H, dd, J=8.8, 1.8 Hz), 6.96–6.91 (1H, m), 4.58 (2H, d, J=5.9 Hz), 2.35 (3H, s). ESIMS m/z 461 (M+H)+. Anal. Calcd. for C28H24N6O×0.3 MTBE: C, 72.71; H, 5.77; N, 17.25. Found: C, 72.38; H, 5.80; N, 16.88.

reactant | 2-[3-[2-(4-methyl-pyridin-2-yl)-vinyl]-1-(tetrahydro-pyran-2-yl)-1H-indazol -6-ylamino]-benzoic acid | CC1=CC(=NC=C1)C=CC1=NN(C2=CC(=CC=C12)NC1=C(C(=O)O)C=CC=C1)C1OCCCC1 | C27H26N4O3
reactant | C-Pyridin-2-yl-methylamine | N1=C(C=CC=C1)CN | C6H8N2
solvent | MTBE | CC(C)(C)OC | C5H12O
product | 2-{3-[2-(4-Methyl-pyridin-2-yl)-vinyl]-1H-indazol6-ylamino}-N-pyridin-2-ylmethyl-benzamide | CC1=CC(=NC=C1)C=CC1=NNC2=CC(=CC=C12)NC1=C(C(=O)NCC2=NC=CC=C2)C=CC=C1 | C28H24N6O
